US04833259
4.3 g of dl-α-tocopherol (0.010 mol) and 1.34 g of pyridine (0.017 mol) are placed in 20 ml of CH2Cl2 while gassing with argon in a 100 ml 4-necked sulphonation flask provided with a temperature, a 20 ml dropping funnel, a magnetic stirrer and a reflux condenser. A solution of 0.95 g of 4-methoxycinnamic acid chloride (0.015 mol) in 15 ml of CH2Cl2 is added dropwise within 10 minutes. The reaction mixture is heated to reflux temperature for 3 hours. The solution is washed in succession with 10 ml of water, 10 ml of 5% HCl and 10 ml of 5% NaHCO3. After drying (Na2SO4) the solvent is concentrated on a rotary evaporator. The crude product (6.3 g) is chromatographed (toluene) on 150 g of silica gel (0.040-0.063 mm) under 0.5 bar pressure. There are obtained 5.2 g of yellowish d,l-α-tocopherol ester of p-methoxycinnamic acid (yield 88%).

reactant | dl-α-tocopherol | 0.010 mol, 4.3 g | CC1=C(C(=C2CCC(OC2=C1C)(C)CCCC(C)CCCC(C)CCCC(C)C)C)O | C29H50O2
reactant | pyridine | 0.017 mol, 1.34 g | N1=CC=CC=C1 | C5H5N
reactant | 4-methoxycinnamic acid chloride | 0.015 mol, 0.95 g | COC1=CC=C(C=CC(=O)Cl)C=C1 | C10H9ClO2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | p-methoxycinnamic acid | yield 88% | COC1=CC=C(C=CC(=O)O)C=C1 | C10H10O3
